US08378122B2
{(5-Chloro-benzo[b]thiophen-3-yl)-[2-(3,4-difluoro-phenyl)-vinylcarbamoyl]-methyl}-methyl-phosphinic acid Choline Salt
A 250 mL three-necked round-bottomed flask was charged with {(5-chloro-benzo[b]thiophen-3-yl)-[2-(3,4-difluoro-phenyl)-vinylcarbamoyl]-methyl}-methyl-phosphinic acid (20.0 g, 42.2 mol) and methanol (150 mL), under nitrogen. To the resulting slurry was then added 45% by wt. of choline hydroxide in methanol (12.8 mL, 45.3 mol), in one portion. Shortly after the addition, a homogeneous clear solution was obtained. The solution was aged at room temperature for about 1 hour, then clarified by filtration through a medium sintered glass filter. The resulting filtered solution was concentrated by distillation (at a temperature of about 63-65° C.) to a residual volume of about 55-60 mL. While at the elevated temperature, EtOAc (140-150 mL) was added by an addition funnel over a period of about 40 minutes, while maintaining a temperature of about 63-65° C. The resulting clear solution was seeded, then cooled slowly under moderate agitation to ambient temperature. The resulting slurry was then aged overnight, cooled to about 5-10° C. and aged at this temperature for about 2 hours. The resulting solid was collected by filtration, rinsed with cold EtOAc (40 mL, 2C) and dried in a vacuum oven at 50° C., overnight to yield the title compound as a white crystalline solid.

reactant | {(5-chloro-benzo[b]thiophen-3-yl)-[2-(3,4-difluoro-phenyl)-vinylcarbamoyl]-methyl}-methyl-phosphinic acid | 42.2 mol, 20.0 g | ClC1=CC2=C(SC=C2C(C(NC=CC2=CC(=C(C=C2)F)F)=O)P(O)(=O)C)C=C1 | C19H15ClF2NO3PS
reactant | choline hydroxide | [OH-].OCC[N+](C)(C)C
solvent | methanol | 150 mL | CO | CH4O
solvent | methanol | 45.3 mol, 12.8 mL | CO | CH4O
product | {(5-Chloro-benzo[b]thiophen-3-yl)-[2-(3,4-difluoro-phenyl)-vinylcarbamoyl]-methyl}-methyl-phosphinic acid Choline Salt | OCC[N+](C)(C)C.ClC1=CC2=C(SC=C2C(C(NC=CC2=CC(=C(C=C2)F)F)=O)P([O-])(=O)C)C=C1 | InChI=1S/C19H15ClF2NO3PS.C5H14NO/c1-27(25,26)18(14-10-28-17-5-3-12(20)9-13(14)17)19(24)23-7-6-11-2-4-15(21)16(22)8-11;1-6(2,3)4-5-7/h2-10,18H,1H3,(H,23,24)(H,25,26);7H,4-5H2,1-3H3/q;+1/p-1
